US05329052
A mixture of 110 g (0.56 mol) of 2-(1-bromopropan-2-yl)-1,3-dioxolane, 148.5 g (0.56 mol) of triphenylphosphine and 550 ml of anhydrous toluene is heated at reflux under nitrogen for 24 h. The paste-like salt phase is separated and washed with 5×200 ml of anhydrous ethyl ether. After drying under vacuum there are obtained 191 g of [2-(1,3-dioxolan-2-yl)propan-1-yl]triphenylphosphonium bromide (white solid; yield 75%).

reactant | 2-(1-bromopropan-2-yl)-1,3-dioxolane | 0.56 mol, 110 g | BrCC(C)C1OCCO1 | C6H11BrO2
reactant | triphenylphosphine | 0.56 mol, 148.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 550 ml | C1(=CC=CC=C1)C | C7H8
product | [2-(1,3-dioxolan-2-yl)propan-1-yl]triphenylphosphonium bromide | 191 g, yield 75% | [Br-].O1C(OCC1)C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C24H26O2P.BrH/c1-20(24-25-17-18-26-24)19-27(21-11-5-2-6-12-21,22-13-7-3-8-14-22)23-15-9-4-10-16-23;/h2-16,20,24H,17-19H2,1H3;1H/q+1;/p-1
